* SPICE3 file created from vref_1v2.ext - technology: gf180mcuD

.option scale=5n

.subckt vref_1v2 vdd vss vref
X0 a_n200_7311# a_n200_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
X1 a_3229_3519# a_n200_n689# a_2709_3519# vss nfet_03v3 ad=44.8n pd=0.912m as=96n ps=1.84m w=800 l=400
X2 a_3229_3519# a_n200_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
X3 vref a_n200_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
X4 a_n200_n689# a_n200_n689# vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
X5 a_2709_3519# vdd vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
X6 a_2709_3519# a_n200_n689# a_3229_3519# vss nfet_03v3 ad=96n pd=1.84m as=44.8n ps=0.912m w=800 l=400
X7 vref vref vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=400
C0 vdd vref 1.91239f
C1 a_3229_3519# vref 0.08862f
C2 vref a_n200_n689# 0.09365f
C3 a_3229_3519# vdd 2.2078f
C4 a_2709_3519# vref 0.31821f
C5 a_3229_3519# a_n200_n689# 0.47717f
C6 a_n200_7311# vref 0.4138f
C7 vdd a_2709_3519# 0.26439f
C8 a_3229_3519# a_2709_3519# 1.70563f
C9 a_2709_3519# a_n200_n689# 0.54465f
C10 m4_3570_5311# vref 0.02814f
C11 a_n200_7311# vdd 6.71867f
C12 a_3229_3519# a_n200_7311# 0.29689f
C13 m4_3570_5311# vss 0.02506f **FLOATING
C14 a_2709_3519# vss 25.09814f
C15 a_3229_3519# vss 6.79775f
.ends

