* NGSPICE file created from vref_1v2.ext - technology: gf180mcuD

.subckt vref_1v2 vdd vss vref
X0 a_n200_7311# a_n200_7311# vdd vdd pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
X1 a_3229_3519# a_n200_n689# a_2709_3519# vss nfet_03v3 ad=1.12p pd=4.56u as=2.4p ps=9.2u w=4u l=2u
X2 a_3229_3519# a_n200_7311# vdd vdd pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
X3 vref a_n200_7311# vdd vdd pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
X4 a_n200_n689# a_n200_n689# vss vss nfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
X5 a_2709_3519# vdd vss vss nfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
X6 a_2709_3519# a_n200_n689# a_3229_3519# vss nfet_03v3 ad=2.4p pd=9.2u as=1.12p ps=4.56u w=4u l=2u
X7 vref vref vss vss nfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=2u
.ends

