* SPICE3 file created from vref_1v2.ext - technology: gf180mcuD

.option scale=5n

.subckt vref_1v2 vdd vss vref
X0 a_n125_7311# a_n125_7311# vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
X1 a_3025_3519# a_n125_7311# a_2655_3519# vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
X2 vref vref vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=200
X3 a_2655_3519# vdd vss vss nfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
X4 a_n125_7311# a_n125_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
X5 a_3025_3519# a_n125_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
X6 vref a_n125_7311# vdd vdd pfet_03v3 ad=96n pd=1.84m as=96n ps=1.84m w=800 l=250
C0 vref vdd 1.79273f
C1 a_2655_3519# vdd 0.60425f
C2 a_2655_3519# vref 0.33201f
C3 a_3025_3519# vdd 2.61502f
C4 a_n125_7311# vdd 5.37647f
C5 vref a_3025_3519# 0.37905f
C6 a_n125_7311# vref 1.57543f
C7 a_2655_3519# a_3025_3519# 1.17092f
C8 a_2655_3519# a_n125_7311# 0.2762f
C9 a_n125_7311# a_3025_3519# 0.45059f
C10 a_2655_3519# vss 16.99951f
C11 a_3025_3519# vss 2.17363f
.ends

